US07241810B2
Preparation 97: 2-(3-Bromophenyl)-N-(3,4-dimethylbenzyl)acetamide
The title compound was prepared from 3,4-dimethylbenzylamine and 3-bromophenylacetic acid, using a method similar to that of preparation 27, as a white solid in 93% yield. 1H NMR (400 MHz, CDCl3) δ: 2.20 (6H, s), 3.50 (2H, s), 4.30 (2H, d), 5.80 (1H, brs), 7.60–7.80 (7H, m); LRMS ESI 332 [M]+

reactant | 3,4-dimethylbenzylamine | CC=1C=C(CN)C=CC1C | C9H13N
reactant | 3-bromophenylacetic acid | BrC=1C=C(C=CC1)CC(=O)O | C8H7BrO2
product | 2-(3-Bromophenyl)-N-(3,4-dimethylbenzyl)acetamide | 93% yield | BrC=1C=C(C=CC1)CC(=O)NCC1=CC(=C(C=C1)C)C | C17H18BrNO
